US09085540B2
Under an argon atmosphere, to a mixture of 5-chloro-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (200 mg), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (93 mg), and N-methylpyrrolidone (2 mL) were added tetrakistriphenylphosphine palladium (0) (25 mg) and a 2 M aqueous sodium carbonate solution (424 μL), followed by stirring in a microwave reaction device at 100° C. for 1 hour. Water was added thereto, and the solid was collected by filtration. The obtained solid was purified by silica gel column chromatography (eluent: chloroform:methanol:28% aqueous ammonia=1:0:0-100:10:1) to obtain 5-(3-aminophenyl)-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (125 mg) as an orange solid.

reactant | 5-chloro-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 200 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C | C24H34ClN7O
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 93 mg | CC1(OB(OC1(C)C)C=1C=C(N)C=CC1)C | C12H18BNO2
reactant | N-methylpyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium carbonate | 2 M, 424 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | O | H2O
product | 5-(3-aminophenyl)-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 125 mg | NC=1C=C(C=CC1)C=1N=C(C(=NC1CC)C(=O)N)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C | C30H40N8O
